US07199239B2
(4-{[Butyl(4′-cyano-2-methyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid
Prepared from ethyl (4-{[(3-bromo-2-methylphenyl)(butyl)amino]methyl}-2-methylphenoxy)acetate and 4-cyanophenylboronic acid using the procedure described for Example 25 (Method A).

reactant | ethyl (4-{[(3-bromo-2-methylphenyl)(butyl)amino]methyl}-2-methylphenoxy)acetate | BrC=1C(=C(C=CC1)N(CCCC)CC1=CC(=C(OCC(=O)OCC)C=C1)C)C | C23H30BrNO3
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | (4-{[Butyl(4′-cyano-2-methyl-1,1′-biphenyl-3-yl)amino]methyl}-2-methylphenoxy)acetic acid | C(CCC)N(C=1C(=C(C=CC1)C1=CC=C(C=C1)C#N)C)CC1=CC(=C(OCC(=O)O)C=C1)C | C28H30N2O3
